US06169107A
In 30 ml of acetone was dissolved 0.70 g (3.00 mmols) of ethyl 4-hydroxymethyl-1-methyl-2-indolecarboxylate. After 3.3 ml of Jones' reagent, which was prepared by dissolving 26.7 g of chromium (VI) oxide in a mixture of 23 ml of conc. sulfuric acid and 40 ml of water and adding water to make the whole volume 100 ml, was added dropwise to the above solution at room temperature, the mixture was stirred at room temperature for an hour. The reaction mixture was poured onto ice water and the aqueous layer was extracted three times with chloroform. The combined extracts were washed with saturated sodium hydrogencarbonate solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to give 0.38 g (51.2%) of ethyl 4-carboxy-1-methyl-2-indolecarboxylate.

reactant | ethyl 4-hydroxymethyl-1-methyl-2-indolecarboxylate | 3.00 mmols, 0.70 g | OCC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C13H15NO3
reactant | Jones' reagent | 3.3 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | sulfuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 40 ml | O | H2O
catalyst | chromium (VI) oxide | 26.7 g | [O-2].[Cr+6].[O-2].[O-2]
product | ethyl 4-carboxy-1-methyl-2-indolecarboxylate | 0.38 g, 51.2% | C(=O)(O)C1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C13H13NO4
